US05614470
(c) 2'-Chloro-2-hydroxyacetophenone O-methyloxime
1.78 g of O-methylhydroxylamine hydrochloride were added to a solution of the 3.05 g of 2'-chloro-2-t-butyldimethyl silyloxyacetophenone prepared above in a mixture of methanol, water and 1,4-dioxane. The resulting mixture was stirred at room temperature for 14 hours, and the reaction mixture was then poured into water and extracted three times with 50 ml portions of ethyl acetate. The combined extracts were washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent was distilled off, and the residue was purified by column chromatography through silica gel, eluted with a stepwise gradient of ethyl acetate (10-40%) in hexane, to give 691 mg (32.4% yield) of the less polar isomer of 2'-chloro-2-hydroxyacetophenone O-methyloxime compound and 370 mg (17.3% yield) of the more polar isomer of the title compound.

reactant | O-methylhydroxylamine hydrochloride | 1.78 g | Cl.CON
reactant | 2'-chloro-2-t-butyldimethyl silyloxyacetophenone | 3.05 g | ClC1=C(C=CC=C1C)C(C(C(C)(C)C)(O[SiH3])C)=O | C14H21ClO2Si
reactant | water | O | H2O
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 2'-Chloro-2-hydroxyacetophenone O-methyloxime | CON=C(CO)C1=C(C=CC=C1)Cl | C9H10ClNO2
